US07612075B2
A. 5-Iodo-3-methyl-2-methoxy-pyridine.
To a solution containing 2-bromo-5-iodo-3-methyl-pyridine (4.80 g, 16.0 mmol) in DMSO (15 mL) is added methanolic NaOMe (3.33 M, 5.3 mL, 17.7 mmol) at 0° C. The solution is allowed to warm to ambient temperature and then heated at 70° C. for 1 hour. The reaction mixture is diluted with diethyl ether (300 mL) and water (200 mL) and the layers are separated. The organic phase is washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude product is purified by silica gel flash column chromatography (hexane/diethyl ether, 19:1) to provide 2.86 g (71%) of the title compound as a white solid. 1H NMR (300 MHz, CDCl3) δ2.12 (s, 3H), 3.90 (s, 3H), 7.60 (d, J=2.1 Hz, 1H), 8.14 (d, J=2.1 Hz, 1H) ppm; MS (EI): m/z 249 (M+).

reactant | 2-bromo-5-iodo-3-methyl-pyridine | 16.0 mmol, 4.80 g | BrC1=NC=C(C=C1C)I | C6H5BrIN
reactant | NaOMe | 17.7 mmol, 3.33 M, 5.3 mL | C[O-].[Na+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | water | 200 mL | O | H2O
product | 5-Iodo-3-methyl-2-methoxy-pyridine | 2.86 g, 71% | IC=1C=C(C(=NC1)OC)C | C7H8INO
